US03978097
1-(4,8-Dimethyl-1,7-nonadienyl)-3,4-methylenedioxybenzene
The above compound is produced in analogous manner to that described in Example 2, but using 1-(1-hydroxy-4,8-dimethyl-7-nonenyl)-3,4-methylenedioxy- benzene in the plate of 1-(1-hydroxy-4-isopentyloxybutyl)-3,4-methylenedioxybenzene. nD20 = 1.5426.

reactant | 1-(1-hydroxy-4,8-dimethyl-7-nonenyl)-3,4-methylenedioxy- benzene | OC(CCC(CCC=C(C)C)C)C1=CC2=C(C=C1)OCO2 | C18H26O3
reactant | 1-(1-hydroxy-4-isopentyloxybutyl)-3,4-methylenedioxybenzene | OC(CCCOCCC(C)C)C1=CC2=C(C=C1)OCO2 | C16H24O4
product | 1-(4,8-Dimethyl-1,7-nonadienyl)-3,4-methylenedioxybenzene | CC(CC=CC1=CC2=C(C=C1)OCO2)CCC=C(C)C | C18H24O2
